US05990326
Methyl 3-(3-oxo-1E-propenyl)benzoate (0.67 g, 3.52 mmol) and 10 ml of methanol was added dropwise to 0.58 ml of 70% 1,1-dimethylethylhydroperoxide (4.2 mmol) in 5 ml of methanol. The pH was maintained at pH 8.0-8.5 throughout with 1N sodium hydroxide. The mixture was stirred at about 35° C. for 1.5 hrs. The reaction mixture was poured into ether/water and the ether layer was washed 3× with water and 1× with brine, dried over sodium sulfate, and concentrated. Flash chromatography using 10:1 followed by 2:1 hexane/ethyl acetate provided the product, methyl trans-3-(3-formyloxiranyl)benzoate as the pure trans epoxide.

reactant | Methyl 3-(3-oxo-1E-propenyl)benzoate | 3.52 mmol, 0.67 g | O=C/C=C/C=1C=C(C(=O)OC)C=CC1 | C11H10O3
reactant | 1,1-dimethylethylhydroperoxide | 4.2 mmol, 0.58 ml | CC(C)(C)OO | C4H10O2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | ether water | CCOCC.O
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | methyl trans-3-(3-formyloxiranyl)benzoate | C(=O)[C@H]1[C@@H](O1)C=1C=C(C(=O)OC)C=CC1 | C11H10O4
